US07838543B2
2′-Chloro-4′-trifluoromethyl-biphenyl-4-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide
The title compound is prepared by following a procedure analogous to Example 113, Step 1, using N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide (0.10 g, 0.21 mmol) and 2-chloro-4-trifluoromethyl-phenyl boronic acid (0.056 g, 0.25 mmol) to afford 0.045 g (40%). LC/MS, Retention time=5.34 min; (m/z): calcd for C26H24ClF3N4OS: 533.0; found: 533.0.

reactant | N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide | 0.21 mmol, 0.10 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(C2=CC=C(C=C2)I)=O)C)C | C19H21IN4OS
reactant | 2-chloro-4-trifluoromethyl-phenyl boronic acid | 0.25 mmol, 0.056 g | ClC1=C(C=CC(=C1)C(F)(F)F)B(O)O | C7H5BClF3O2
product | 2′-Chloro-4′-trifluoromethyl-biphenyl-4-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=CC=C(C=C2)C2=C(C=C(C=C2)C(F)(F)F)Cl)C)C | C26H24ClF3N4OS
